US08476432B2
E-(6-{2-[2-cyclopropyl-4-(4-fluorophenyl)quinolin-3-yl]vinyl}-[(4R,6S)-2,2-dimethyl-[1,3]dioxan-4-yl])-N-methoxy-N-methyl-acetamide (3.0 g), acetonitrile (50.0 mL), and sulfuric acid (0.3 mL) were added to a reactor. The reaction mixture was stirred at 50˜60° C. for 5 hours and then concentrated under reduced pressure. Ethyl acetate (50.0 mL) and water (50.0 mL) were added to the resulting residue. The separated organic layer was dried under reduced pressure to obtain E-6-{2-[2-cyclopropyl-4-(4-fluorophenyl)quinolin-3-yl]vinyl}-(4R,6S)-4-hydroxy-3,4,5,6-tetrahydro-2H-pyran-2-one (1.2 g, yield 50%).

reactant | E-(6-{2-[2-cyclopropyl-4-(4-fluorophenyl)quinolin-3-yl]vinyl}-[(4R,6S)-2,2-dimethyl-[1,3]dioxan-4-yl])-N-methoxy-N-methyl-acetamide | 3.0 g | C1(CC1)C1=NC2=CC=CC=C2C(=C1/C=C/[C@@H]1C[C@@H](OC(O1)(C)C)CC(=O)N(C)OC)C1=CC=C(C=C1)F | C30H33FN2O4
reactant | sulfuric acid | 0.3 mL | S(O)(O)(=O)=O | H2O4S
solvent | acetonitrile | 50.0 mL | C(C)#N | C2H3N
product | E-6-{2-[2-cyclopropyl-4-(4-fluorophenyl)quinolin-3-yl]vinyl}-(4R,6S)-4-hydroxy-3,4,5,6-tetrahydro-2H-pyran-2-one | 1.2 g, yield 50% | C1(CC1)C1=NC2=CC=CC=C2C(=C1/C=C/[C@@H]1C[C@H](CC(O1)=O)O)C1=CC=C(C=C1)F | C25H22FNO3
